US06710060B2
Synthesis of N-(4-isopropoxyphenyl)-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide
Sodium hydride (60% dispersion in oil; 1.99 g) was added to an anhydrous tetrahydrofuran solution (80 mL) of 4′-isopropoxyacetanilide (8.0 g) under nitrogen atmosphere while cooling with ice-water, followed by stirring at the intact temperature for 1 hour. The reaction solution was cooled to −50° C. and added with an anhydrous tetrahydrofuran solution (80 mL) of lithium diisopropylamide prepared from diisopropylamine (11.6 mL) and n-butyl lithium (1.6M hexane solution; 51.8 mL), followed by stirring at −50 to −30° C. for 1 hour. An anhydrous tetrahydrofuran solution (40 mL) of 1-benzylpiperidin-4-one (7.83 g) was added to the reaction solution above at −30° C., and the mixture was stirred −30° C. for 30 minutes, and under cooling with ice-water for 2 hours. The reaction solution was poured into ice-water, and the aqueous solution was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, dried over anhydrous sodium sulfate, and the solution was distilled off under reduced pressure. The residue obtained was purified by silica gel column chromatography (elution solvent; methylene chloride:methanol=90:10 to 75:25) to obtain the titled compound (10.3 g).

reactant | Sodium hydride | 1.99 g | [H-].[Na+]
reactant | 4′-isopropoxyacetanilide | 8.0 g | C(C)(C)OC1=CC=C(NC(C)=O)C=C1 | C11H15NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 11.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6M, 51.8 mL | C(CCC)[Li]
reactant | 1-benzylpiperidin-4-one | 7.83 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | N-(4-isopropoxyphenyl)-2-(1-benzyl-4-hydroxypiperidin-4-yl)acetamide | 10.3 g | C(C)(C)OC1=CC=C(C=C1)NC(CC1(CCN(CC1)CC1=CC=CC=C1)O)=O | C23H30N2O3
